* C:\Users\Agus\Documents\GitHub\E2-TPs\TP1\Simulacion\Circuito Final 723\Test.asc
Q16 N007 N009 Vout 0 2N2222
Q12 N007 N015 N016 0 2N2222
R14 N001 N009 33
R13 N009 0 4.7k
R15 N001 Vout 0.47
Ra Vout N015 6k
RL Vout 0 5
Rb N015 0 10k
Q11 Vin N014 N016 0 2N2222
D2 N020 Vref 1N750
R8 0 N020 180
R7 N019 N020 33k
Q6 N010 N019 0 0 2N2222
Q4 Vin N010 N011 0 2N2222
Q5 Vin N011 N013 0 2N2222
R6 Vref N013 100
Rc Vref N014 3750
D1 N012 Vin TFZV6_8B
Q2 N008 N008 N003 0 2N2907
Q3 N010 N008 N004 0 2N2907
R1 Vin N003 82
R3 Vin N004 4.1k
R2 N008 N012 680
J§Q1 0 0 N012 MPF102
Q8 N007 N008 N006 0 2N2907
R5 Vin N006 164
Q7 N018 N008 N005 0 2N2907
R4 Vin N005 164
Q10 N018 N021 N022 0 2N2222
Q13 N016 N021 N023 0 2N2222
R9 N022 0 330
R11 N023 0 150
Q9 N017 N018 N021 0 2N2222
R10 N021 0 20k
V5 Vin2 N002 20
V1 N002 0 PULSE(0 0.3 0 0.001 0.02 1n 0.021)
V2 Vin 0 12
XU1 Vin N007 N001 TIP110
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.jft
;tran 0 10 0 0.01
.op
* Circuito de Referencia
* Proteccion
.model MPF102   NJF(Vto=-3.41 Beta=1.04m Lambda=2m Rd=1 Rs=1 Cgs=2.414p
+                   Cgd=1.6p Pb=1 Is=33.57f Kf=11.73E-18 Af=1 Fc=.5)
.lib TCLib/TIP110.lib
.backanno
.end
